US08486946B2
Step 2: Preparation of ethyl 1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-4-thioxo-1,4-dihydrocinnoline-3-carboxylate
Ethyl 4-oxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydrocinnoline-3-carboxylate (253 mg, 0.676 mmol) was suspended in toluene (3 mL) and treated with 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane 2,4-disulfide (Lawesson's Reagent, 164 mg, 0.405 mmol, 0.6 equiv). The mixture was heated at 105° C. for 1 hour, cooled to ambient temperature, and concentrated in vacuo. The residue was purified by silica gel chromatography (90:10 to 60:40; hexanes:ethyl acetate), providing the titled compound.

reactant | Ethyl 4-oxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydrocinnoline-3-carboxylate | 0.676 mmol, 253 mg | O=C1C(=NN(C2=CC=CC=C12)CC1=CC=C(C=C1)N1N=CC=C1)C(=O)OCC | C21H18N4O3
reactant | 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane 2,4-disulfide | 0.405 mmol, 164 mg, 0.6 equiv | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-4-thioxo-1,4-dihydrocinnoline-3-carboxylate | N1(N=CC=C1)C1=CC=C(C=C1)CN1N=C(C(C2=CC=CC=C12)=S)C(=O)OCC | C21H18N4O2S
